US07786110B2
Step 2 5-(2-Bromo-acetyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide
A solution of bromine (0.074 ml, 1.5 mmol) dissolved in CCl4 (2.0 ml) was added slowly to a stirred solution of 5-acetyl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide (325 mg, 1 mmol) in 3.0 ml of CCl4 at room temperature. The mixture was then heated to 45° C. for 14 hours. The solution was cooled and extracted with EtOAc, and the combined organic layers were washed with saturated aqueous Na2S2O3, brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude 5-(2-bromo-acetyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide was used for next step directly without further purification.

reactant | bromine | 1.5 mmol, 0.074 ml | BrBr | Br2
reactant | 5-acetyl-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | 1 mmol, 325 mg | COCC(C)NC(=O)C=1C=C(C=C(C1)C(C)=O)C1=CC=C(C=C1)C | C20H23NO3
solvent | CCl4 | 2.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 3.0 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(2-Bromo-acetyl)-4′-methyl-biphenyl-3-carboxylic acid (2-methoxy-1-methyl-ethyl)-amide | COCC(C)NC(=O)C=1C=C(C=C(C1)C(CBr)=O)C1=CC=C(C=C1)C | C20H22BrNO3
